US06518257B1
(i) Production of 3-bromo-N-cyclopropylbenzamide
By the reaction in the same manner as in Example 45-(i) using 3-bromobenzoyl chloride (5.50 g) and cyclopropylamine (4.30 g), the title compound (5.20 g) was obtained as colorless needle crystals.

reactant | 3-bromobenzoyl chloride | 5.50 g | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
reactant | cyclopropylamine | 4.30 g | C1(CC1)N | C3H7N
product | 3-bromo-N-cyclopropylbenzamide | 5.20 g | BrC=1C=C(C(=O)NC2CC2)C=CC1 | C10H10BrNO
